US05925635
Dry hydrogen chloride gas was bubbled through an ice cooled solution of N-(3-cyanophenyl)-N'-(1-amidinopiperidin-4-yl)cyclo-heptylurea (0.03 g, 0.075 mmol) in anhydrous ethanol (5 ml) for 15 min. The reaction was stoppered, allowed to warm to ambient temperature and stirred for 24 h. The reaction was concentrated to give a viscous residue which was dissolved in anhydrous ethanol and ammonium carbonate (0.06 g, 0.63 mmol) was added. The reaction was stirred over night at ambient temperature and then concentrated in vacuo. The crude product appeared to be about 1:2 ratio of the desired product to starting material. Pure N-(3-amidinophenyl)-N'-(1-amidinopiperidin-4-yl)cycloheptylurea was isolated by HPLC on a Vydec® C-18 column eluting with solvent mixture A (acetonitrile:water:TFA 80:20:0.3) and solvent mixture B (water:TFA 99.7:0.3) using a gradient starting with A:B at 3:97 and changing to A:B at 70:30 over 20 min, to give two major fractions: N-(3-amidinophenyl)-N'-(1-amidinopiperidin-4-yl)cycloheptylurea, the desired product eluted at 13.3 minutes, (8.2 mg); LRMS (M+2H)+2 m/z 179.8; HRMS calc. 358.2355, found 358.2349; 1H NMR (DMSO-d6): 9.25(s, 2H), 9.0(s, 2H), 7.55-7.4(m, 4H), 7.32(s, 4H), 3.95(m, 3H), 3.65(m, 2H), 3.25(m, 2H), 3.07(m, 2H), 1.8-1.6(m, 8H).

reactant | hydrogen chloride | Cl | ClH
reactant | N-(3-cyanophenyl)-N'-(1-amidinopiperidin-4-yl)cyclo-heptylurea | 0.075 mmol, 0.03 g | C(#N)C=1C=C(C=CC1)N(C(=O)NC1CCN(CC1)C(N)=N)C1CCCCCC1 | C21H30N6O
reactant | ammonium carbonate | 0.63 mmol, 0.06 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-(3-amidinophenyl)-N'-(1-amidinopiperidin-4-yl)cycloheptylurea | C(N)(=N)C=1C=C(C=CC1)N(C(=O)NC1CCN(CC1)C(N)=N)C1CCCCCC1 | C21H33N7O
